US07977331B1
To a solution of tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-thiocarbamoylethyl]carbamate (250 mg, 0.647 mmol) in acetone (5 ml) was added bromoacetaldehyde diethyl acetal (149 μl, 0.970 mmol), and the mixture was stirred at 65° C. for 14 hr. The mixture was further heated to 75° C. and stirred for 5 hr. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give text-butyl (S)-[2-(4-benzyloxyphenyl)-1-(thiazol-2-yl)ethyl]carbamate (112 mg, yield 42%).

reactant | tert-butyl (S)-[2-(4-benzyloxyphenyl)-1-thiocarbamoylethyl]carbamate | 0.647 mmol, 250 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(N)=S)NC(OC(C)(C)C)=O | C21H26N2O3S
reactant | bromoacetaldehyde diethyl acetal | 0.970 mmol, 149 μl | C(C)OC(CBr)OCC | C6H13BrO2
reactant | acetone | 5 ml | CC(=O)C | C3H6O
product | butyl (S)-[2-(4-benzyloxyphenyl)-1-(thiazol-2-yl)ethyl]carbamate | 112 mg, yield 42% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C=1SC=CN1)NC(OCCCC)=O | C23H26N2O3S
